US07750051B2
Isolation of Rasagiline Base by Splitting and Extraction
155 g of rasagiline tartrate, prepared essentially as described in U.S. Pat. No. 5,532,415 example 6B, and 20 g of rasagiline mesylate, prepared as described in example 1, were dissolved in 800 ml of water. 400 ml of toluene were added to the solution and the mixture was basified with 25% NaOH solution to a pH of about 14 and heated to 45±5° C.

reactant | rasagiline tartrate | 155 g | C#CCN[C@@H]1CCC2=CC=CC=C12.C#CCN[C@@H]1CCC2=CC=CC=C12.[C@@H]([C@H](C(=O)O)O)(C(=O)O)O
reactant | rasagiline mesylate | 20 g | CS(=O)(=O)O.C#CCN[C@@H]1CCC2=C1C=CC=C2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | water | 800 ml | O | H2O
product | Rasagiline | C#CCN[C@@H]1CCC2=C1C=CC=C2 | C12H13N
